US06365754B1
Acetyl cyanide (4.55 ml, 64.3 mmol) was added to a mixture of N-benzyl-N-benzyloxycarbonyl-L-phenylalaninal (20.0 g, 53.6 mmol), zinc chloride (8.76 g, 64.3 mmol) and tetrahydrofuran (70 ml) at 5° C. with stirring, and the whole was stirred at 25° C. for 12 hours. After the reaction was finished, tetrahydrofuran was evaporated under reduced pressure. Water was added to the residue, and the whole was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 19.6 g (yield 83%, erythro:threo=94:6) of titled (2S, 3S)-3-[N-(benzyl)-N-(benzyloxycarbonyl) amino]-2-acetyloxy-4-phenylbutyronitrile.

reactant | Acetyl cyanide | 64.3 mmol, 4.55 ml | C(C)(=O)C#N | C3H3NO
reactant | N-benzyl-N-benzyloxycarbonyl-L-phenylalaninal | 53.6 mmol, 20.0 g | C(C1=CC=CC=C1)N([C@@H](CC1=CC=CC=C1)C=O)C(=O)OCC1=CC=CC=C1 | C24H23NO3
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
catalyst | zinc chloride | 64.3 mmol, 8.76 g | [Cl-].[Zn+2].[Cl-]
product | (2S, 3S)-3-[N-(benzyl)-N-(benzyloxycarbonyl) amino]-2-acetyloxy-4-phenylbutyronitrile | 19.6 g, yield 83% | C(C1=CC=CC=C1)N(C(=O)OCC1=CC=CC=C1)[C@H]([C@@H](C#N)OC(C)=O)CC1=CC=CC=C1 | C27H26N2O4
